US06693202B1
1-Benzyl-4-piperidinol (2.09 g, 10.9 mmol) and 4-nitrophenyl chloroformate (2.2 g, 10.9 mmol) were dissolved in anhydrous acetonitrile (10 mL). To this solution was added diisopropylethylamine (1.4 g, 10.9 mmol) and the resulting yellow solution was stirred at room temperature. After 3 h, aminodiphenylmethane (2 g, 10.9 mmol) was added and the reaction mixture was heated at 65° C. After 3 h, the reaction mixture was cooled to room temperature and stirred for an additional 12 h. The resulting solid was filtered, washed with cold acetonitrile to give 1-benzyl-4-piperidylbenzhydryl carbamate (1.3 g, 50%) as a colorless solid which was used in the next step without further purification.

reactant | 1-Benzyl-4-piperidinol | 10.9 mmol, 2.09 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
reactant | 4-nitrophenyl chloroformate | 10.9 mmol, 2.2 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diisopropylethylamine | 10.9 mmol, 1.4 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | aminodiphenylmethane | 10.9 mmol, 2 g | NC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H13N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 1-benzyl-4-piperidylbenzhydryl carbamate | 1.3 g, 50% | C(N)(OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCN(CC1)CC1=CC=CC=C1)=O | C26H28N2O2
